US05736548
A mixture of 4-morpholinylethyl 3,5-di-[2-(4-morpholinyl)ethoxy]benzoate (2.0 g, 4 mmol), 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (0.45 g, 2 mmol), NaOCH3 (0.23 g, 4 mmol) and ethanol (50 ml) was refluxed for 96 hours. The reaction was incomplete so an additional equivalent of the benzoate and NaOCH3 were added and the mixture was refluxed for 48 hours. The reaction mixture was stripped to dryness, and the residue was treated with water and acidified with acetic acid. The mixture was cooled and the product was isolated by filtration and dried at 90° C. to afford 0.61 g (54%) of 1-cyclopentyl-3-ethyl-6-[3,5-di[2-(4-morpholinyl)ethoxy]phenyl]pyrazolo[3,4-d]pyrimidin-4-one, m.p. 182°-183° C.

reactant | 4-morpholinylethyl 3,5-di-[2-(4-morpholinyl)ethoxy]benzoate | 4 mmol, 2.0 g | N1(CCOCC1)CCOC=1C=C(C(=O)OCCN2CCOCC2)C=C(C1)OCCN1CCOCC1 | C25H39N3O7
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 2 mmol, 0.45 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | NaOCH3 | 4 mmol, 0.23 g | O([Na])C
reactant | benzoate | C(C1=CC=CC=C1)(=O)[O-]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-cyclopentyl-3-ethyl-6-[3,5-di[2-(4-morpholinyl)ethoxy]phenyl]pyrazolo[3,4-d]pyrimidin-4-one | 0.61 g, 54% | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC(=CC(=C2)OCCN2CCOCC2)OCCN2CCOCC2)CC | C30H42N6O5
